Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim / morphine
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
egd
 
History of Present Illness:
Mr ___ is a very pleasant ___ with hx only of anxiety who 
noticed a relatively sudden change in his health starting ___ m 
ago and consisting of muscle cramps, night sweats, 50 lb weight 
loss, n/v, hematemeisis/fatigue, HA, blurry vision, tingling in 
hands, rash on legs, pain under ribs.  His PCP had started ___ 
work-up for the above and found him to have abnl LFTs (AP of 
774, ALT/AST in low 100s), monoclonal band on electrophoresis, 
hepatosplenomegaly, and granulomas on liver bx.  This prompted a 
___ vs. lymphoma, which has revealed elevated ACE, nl 
CXR and neg quant gold.  Viral hepatitis panel was reportedly 
negative as was HIV.  He was also found to have pancytopenia and 
was referred for heme/onc f/u scheduled for 1 wk from admission. 
   

Pt was also referred to hepatology at ___ for further 
evaluation of liver granulomas.  He was recently seen by Dr 
___ further evaluation of abnl LFTs and scheduled for 
EGD on ___ for hemoptysis but given progression of sxs including 
shaking chills during the day and T 103 (usually only has 
nightsweats - this feels different to him) he was told to 
present to the ED.  He has a history of recurrent skin 
infections that required vancomycin for tx of bacteremia 
(treated at ___ he says this feels more like the times when 
he was bacteremic than his prior symptoms.  

In the ED, initial vitals were: 99.5  104  140/78  18 99% RA.  
Blood cultures were drawn.  Labs were notable for mild 
pancytopenia.  Pt was influenza negative.  He was given Tylenol 
and 2L NS.  CXR showed 
no acute CP abnormality. 
 
Currently, pt c/o ongoing headache, hemoptysis vs hematemesis 
(pt unable to clarify), intermittent blurry vision coinciding 
with HA, persistent rash and ongoing fatigue.  Also endorses 
dysuria on ROS.  No diarrhea.

Review of systems:
(+) Per HPI, 10 pt ros otherwise negative

 
Past Medical History:
anxiety 
recurrent skin infections tx'ed at ___, ___
hx chronic pain med dependence on methadone
anxiety
leg cramps

 
Social History:
___
Family History:
thyroid disease, grandfather with ca unknown type, no hx 
malignany otherwise, no hx autoimmune disease.
 
Physical Exam:
ADMISSION
Vitals: 98.0 110/64 77 18 94% Ra
Constitutional: Alert, oriented, appears somewhat uncomfortable
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL
Neck: Supple
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales, rhonchi
GI: Soft, TTP in upper quadrants, non-distended, bowel sounds 
present, difficult to appreciate organomegaly due to voluntary 
guarding
GU: No foley
Ext: Warm, well perfused, no CCE
Neuro: aaox3 CNII-XII intact and ___ strength throughout
Skin: blanching erythematous ___ rash over bilateral thighs
MSK: ___ strength throughout

DISCHARGE
97.9  118/62  79  18  97%RA
Constitutional: Alert, oriented, comfortable
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL
Neck: Supple
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Respiratory: Clear to auscultation bilaterally
GI: Soft, TTP in upper quadrants, non-distended, bowel sounds 
present
GU: No foley
Ext: Warm, well perfused, no CCE
Neuro: Alert, follows commands
Skin: blanching erythematous ___ rash over bilateral thighs
 
Pertinent Results:
___ 12:25PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:25PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 02:00AM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 12:50AM URINE  HOURS-RANDOM
___ 12:50AM URINE  UHOLD-HOLD
___ 12:50AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:50AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 12:50AM URINE  RBC-1 WBC-<1 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 12:15AM   GLUCOSE-102* UREA N-16 CREAT-1.2 SODIUM-133 
POTASSIUM-4.0 CHLORIDE-96 TOTAL CO2-26 ANION GAP-15
___ 12:15AM   estGFR-Using this
___ 12:15AM   LD(LDH)-235
___ 12:15AM   CALCIUM-9.8 PHOSPHATE-4.4 MAGNESIUM-1.8 URIC 
ACID-8.4*
___ 12:15AM   TSH-4.4*
___ 12:15AM   HBsAg-Negative HBs Ab-Negative HBc 
Ab-Negative HAV Ab-Negative
___ 12:15AM   HCV Ab-Negative
___ 12:15AM   WBC-3.8* RBC-4.31* HGB-11.4* HCT-34.7* 
MCV-81* MCH-26.5 MCHC-32.9 RDW-15.6* RDWSD-45.7
___ 12:15AM   NEUTS-62.2 ___ MONOS-16.1* EOS-1.6 
BASOS-0.3 IM ___ AbsNeut-2.39 AbsLymp-0.75* AbsMono-0.62 
AbsEos-0.06 AbsBaso-0.01
___ 12:15AM   PLT COUNT-126*

MICRO: blood cxs pending

STUDIES:  
CXR
No acute cardiopulmonary abnormality. 

CT head
No acute intracranial pathology or abnormal enhancement. 

EGD
Impression: Erythema in the gastroesophageal junction compatible 
with esophagitis
Normal mucosa in the whole stomach (biopsy)
Ulcers in the D1/D2
No obvious stigmata of portal hypertension
Otherwise normal EGD to third part of the duodenum 

Recommendations: Start omeprazole 40mg BID 
Avoid NSAIDs

EKG: NSR

___ 03:10PM BLOOD WBC-2.0* RBC-4.05* Hgb-11.0* Hct-33.3* 
MCV-82 MCH-27.2 MCHC-33.0 RDW-16.1* RDWSD-48.3* Plt ___
___ 03:10PM BLOOD Neuts-37.5 ___ Monos-19.5* 
Eos-4.5 Baso-0.5 AbsNeut-0.75*# AbsLymp-0.76* AbsMono-0.39 
AbsEos-0.09 AbsBaso-0.01
___ 06:26AM BLOOD SerVisc-1.7
___ 06:26AM BLOOD Glucose-104* UreaN-11 Creat-1.0 Na-139 
K-3.5 Cl-104 HCO3-27 AnGap-12
___ 06:26AM BLOOD ALT-93* AST-97* LD(LDH)-179 AlkPhos-574*
___ 03:10PM BLOOD TotProt-6.9
___ 06:26AM BLOOD Calcium-8.1* Phos-3.3 Mg-2.0 UricAcd-7.0
___ 06:26AM BLOOD C3-152 C4-33
___ 06:26AM BLOOD HIV Ab-Negative
 
Brief Hospital Course:
Pleasant ___ yo M with hx opiod dependence, anxiety, presents 
with constitutional sxs x2 months and found to have abnormal 
LFTs with granulomas on liver bx.

Liver granulomas/fever/wt 
loss/malaise/pancytopenia/rash/hepatosplenomegaly: concern for 
new diagnosis of sarcoid vs idiopathic hepatic granulomas vs 
waldenstrom's macroglobulinemia given monoclonal spike.  
Lymphoma is possible.  Will also need to r/o concurrent 
infection. Liver bx requested for review by our pathologist and 
heme-pathologist, currently in path lab, awaiting review. blood 
cultures without growth at 24hrs. Hepatology recommended heme 
and rheum consult. Rheum stated that sarcoidosis is a diagnosis 
of exclusion which can be considered after infection and 
neoplastic processes have been fully ruled out. Pt had multiple 
labs sent and onc concerned for lymphoma. He remained afebrile 
and reported improvement in myalgias and insisted on discharge 
home. He has follow up arranged for oncology in 1 week where 
pending results can be reviewed and need for bone marrow biopsy 
will be discussed.

hematemesis: with 2 clean based ulcers in duodenum on EGD. pt 
denies NSAID use, EtOH use. No e/o ongoing bleeding. Started on 
BID PPI. Pt did not save stool sample to send for H.pylori.

HA/tingling: concern for CNS granulomatous disease.  CT head 
ordered and WNL.  Resolved.

TRANSITIONAL ISSUES:
1. Follow up pathology results/H.pylori from ulcers
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 300 mg PO QAM 
2. Escitalopram Oxalate 20 mg PO DAILY 
3. CloniDINE 0.1 mg PO BID:PRN anxiety 
4. Methadone 85 mg PO DAILY 

 
Discharge Medications:
1. CloniDINE 0.1 mg PO BID:PRN anxiety 
2. Escitalopram Oxalate 20 mg PO DAILY 
3. Methadone 85 mg PO DAILY 
4. Wellbutrin XL (buPROPion HCl) 300 mg ORAL DAILY 
5. Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hepatosplenomegaly
Thrombocytopenia
Anemia
Neutropenia
Liver granulomas
Duodenal ulcers
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted for expedited work up of multiple issues 
including an enlarged liver and spleen and low blood counts. You 
did not have any fevers during your admission. You were seen by 
the liver specialists as well as the oncologists and 
rheumatologists. Multiple tests remain pending at your discharge 
and you still do not have a clear diagnosis as to the cause of 
these problems. It is critical for you to follow up closely to 
discuss the results of pending studies and any other potential 
needed work up.
You were also found to have 2 ulcers in your duodenum and have 
been started on a new medication for this.
 
Followup Instructions:
___